US06720463B1
Isobutyl (R)-2-(Methoxymethoxy)propionate
2.0 g of 60% sodium hydride was suspended in 50 ml of toluene. The suspension was cooled on an ice bath. Thereto was dropwise added 7.3 g of isobutyl (R)-(+)-lactate with stirring, followed by stirring for 1 hour. Thereto was dropwise added 5.0 g of chloromethoxymethane, followed by stirring for 3 hours. The reaction mixture was washed with 50 ml of a saturated aqueous sodium hydrogen carbonate solution and 30 ml of water in this order. The washed material was subjected to vacuum distillation to remove the solvent, whereby was obtained 9.0 g (yield: 86.6%) of an oily title compound.

reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | isobutyl (R)-(+)-lactate | 7.3 g | C([C@H](O)C)(=O)OCC(C)C | C7H14O3
reactant | chloromethoxymethane | 5.0 g | ClCOC | C2H5ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Isobutyl (R)-2-(Methoxymethoxy)propionate | 9.0 g, yield: 86.6% | COCO[C@@H](C(=O)OCC(C)C)C | C9H18O4
